US08809361B2
5-(2-Cyano-4-methylsulfanyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
A mixture of 5-(4-methylsulfanyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (100 mg), potassium cyanide (22 mg), copper(II) bromide (20 mg), palldium(II) acetate (5 mg), and N,N-dimethylformamide (5 mL) is stirred in air at 130° C. overnight. After cooling to room temperature, water is added and the mixture is extracted with ethyl acetate. The combined extract is dried (Na2SO4) and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate) to give the title compound. LC (method 3): tR=1.17 min; Mass spectrum (ESI+): m/z=478 [M+H]+.

reactant | 5-(4-methylsulfanyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | 100 mg | CSC1=CC=C(C=C1)C=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C26H32N2O3S
reactant | potassium cyanide | 22 mg | [C-]#N.[K+]
reactant | acetate | 5 mg | C(C)(=O)[O-]
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | copper(II) bromide | 20 mg | [Cu](Br)Br
solvent | water | O | H2O
product | 5-(2-Cyano-4-methylsulfanyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | C(#N)C1=C(C=CC(=C1)SC)C=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C27H31N3O3S
